US06809199B2
Step B: 7-(1-tert-Butylpiperidin-4-yl)-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one
To a solution of 75 mg of 1-tert-butyl-4-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl]-1,2,3,6-tetrahydropyridinium chloride in 3 mL of MeOH and 1 mL of EtOAc was added 35 mg of PtO2 (Adam's catalyst). The mixture was evacuated and purged with N2, then evacuated and purged with H2, then stirred under an H2 balloon for 1 h. The mixture was filtered through Celite, washing with MeOH, and concentrated. The residue was purified by preparative thin-layer chromatography, eluting with 95:5 CH2Cl2-2M NH3 in MeOH, followed by preparative HPLC (YMC C8 19×50 mm column; 10:90 to 90:10 v/v acetonitrile/water+0.05% TFA over 12 min; 20 mL/minute) to yield the title compound. Mass spectrum (ESI) 542 (M+1). 1H NMR (500 MHz, CD3OD): δ 1.40 (s, 9H); 2.04-2.20 (m, 4H); 3.00-3.12 (m, 3H); 3.68 (br d, J=12.5 Hz, 2H); □6.46 (s, 1H); 6.75 (d, J=10 Hz, 1H); 7.48-7.75 (m, 8H).

reactant | 1-tert-butyl-4-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl]-1,2,3,6-tetrahydropyridinium chloride | 75 mg | [Cl-].C(C)(C)(C)[NH+]1CCC(=CC1)C1=NC(=C2C=CC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=CC=C1)Cl
solvent | MeOH | 3 mL | CO | CH4O
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
catalyst | PtO2 | 35 mg | O=[Pt]=O
product | 7-(1-tert-Butylpiperidin-4-yl)-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one | C(C)(C)(C)N1CCC(CC1)C1=NC(=C2C=CC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=CC=C1)Cl | C29H28Cl3N3O
